US04596819
A solution of 1.34 g of (S)-N-(2-amino-4-methylpentyl)glycine, 1,1-dimethylethyl ester, 1.45 g of Z-proline, and 786 mg of hydroxybenzotriazole hydrate in 40 ml of tetrahydrofuran is cooled in ice and treated dropwise with a solution of 1.21 g of N,N'-dicyclohexylcarbodiimide in 10 ml of tetrahydrofuran. After one hour at 0°, the solution is allowed to stir at room temperature overnight. The solution is then filtered and the filtrate concentrated under reduced pressure. The residue is taken up in ethyl acetate, washed two times with saturated sodium bicarbonate, then with saturated sodium chloride. After drying over magnesium sulfate, the solvent is removed under reduced pressure. The residue is chromatographed on 145 g of silica gel, eluting with chloroform/methanol, (98:2). Combining the appropriate fraction and removing the solvent under reduced pressure gives 1.77 g of [S-(R*,R*)]-2-[[[1-[[[2-(1,1-dimethylethoxy)-2-oxoethyl]amino]methyl]-3-methylbutyl]amino]carbonyl]-1-pyrrolidinecarboxylic acid, phenylmethyl ester.

reactant | (S)-N-(2-amino-4-methylpentyl)glycine, 1,1-dimethylethyl ester | 1.34 g | N[C@H](CNCC(=O)OC(C)(C)C)CC(C)C | C12H26N2O2
reactant | hydroxybenzotriazole hydrate | 786 mg | O.OC1=CC=CC=2NN=NC21
reactant | N,N'-dicyclohexylcarbodiimide | 1.21 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-[[[1-[[[2-(1,1-dimethylethoxy)-2-oxoethyl]amino]methyl]-3-methylbutyl]amino]carbonyl]-1-pyrrolidinecarboxylic acid, phenylmethyl ester | CC(C)(OC(CNCC(CC(C)C)NC(=O)C1N(CCC1)C(=O)OCC1=CC=CC=C1)=O)C | C25H39N3O5
